US04754061
The diethyl 2-(2-butyl-6,7-dichloro-2-cyclopentyl-2,3-dihyro-1-oxo-1H-inden-5-yl)-2-(ethoxycarbonyl)-1,6-hexanedioate (6.5 g) was refluxed with sodium hydroxide (5 g) dissolved in methanol (100 ml) and water (20 ml) for 3 hours. The mixture was cooled, diluted with water, acidified with hydrochloric acid and extracted with diethyl ether. The organic extracts were washed with water, dried over MgSO4 and concentrated to obtain 2-(2-butyl-6,7-dichloro-2-cyclopentyl-2,3-dihydro-1-oxo-1H-inden-5-yl)-1,6-hexanedioic acid (4.3 g). The dioic acid was heated at 130°-135° C. for 25 minutes with copper powder (1.52 g) in quinoline (35 ml). The mixture was cooled, poured into water and extracted with diethyl ether after acidification with hydrochloric acid. The organic extracts were washed with water, dried over MgSO4 and concentrated under vacuum. The residue was chromatographed twice on silica eluting with a mixture of toluene, dioxane and acetic acid in the ratio of 900:80:10 to obtain 2.9 g of the product as viscous oil.

reactant | diethyl 2-(2-butyl-6,7-dichloro-2-cyclopentyl-2,3-dihyro-1-oxo-1H-inden-5-yl)-2-(ethoxycarbonyl)-1,6-hexanedioate | 6.5 g | C(CCC)C1(C(C2=C(C(=C(C=C2C1)C(C(=O)OCC)(CCCC(=O)OCC)C(=O)OCC)Cl)Cl)=O)C1CCCC1 | C31H42Cl2O7
reactant | sodium hydroxide | 5 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-(2-butyl-6,7-dichloro-2-cyclopentyl-2,3-dihydro-1-oxo-1H-inden-5-yl)-1,6-hexanedioic acid | 4.3 g | C(CCC)C1(C(C2=C(C(=C(C=C2C1)C(C(=O)O)CCCC(=O)O)Cl)Cl)=O)C1CCCC1 | C24H30Cl2O5
